US09284323B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(6-chloro-1-hydroxy-3-methylnaphthalen-2-yl)acetate:
To a solution of (S)-ethyl 2-tert-butoxy-2-(6-chloro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate (1.521 g, 3.15 mmol) in anhydrous THF (30 mL) at 0° C. was added a 1M solution of tetrabutylammonium fluoride in THF (6.30 mL. 6.30 mmol) to give a bright yellow solution. The reaction mixture was stirred for 45 minutes and quenched with saturated ammonium chloride solution and stirred for 5 minutes. The product was extracted with ethyl acetate/hexane (1:1, 2×). The combined organic layer was dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give the desired product. LCMS-ESI+ (m/z): [M+H]+ calcd for C19H24ClO4: 349.1. Found: 349.1.

reactant | (S)-ethyl 2-tert-butoxy-2-(6-chloro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | 3.15 mmol, 1.521 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)Cl)OS(=O)(=O)C(F)(F)F | C20H22ClF3O6S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 6.30 mmol, 6.30 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-tert-butoxy-2-(6-chloro-1-hydroxy-3-methylnaphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)Cl)O | C19H23ClO4
